US05082847
4-Amino-1-phenylmethylpiperidine (57.5 g) was dissolved in tetrahydrofuran (150 mL), and the solution added dropwise over a 30 minute period to a cold solution (0° to 5° C.) of carbonyldiimidazole (50 g) in tetrahydrofuran (500 mL). When the addition was complete, the reaction medium was allowed to return to room temperature (20° C.) and stirred continuously for another 20 hours. The solid which precipitated was filtered and washed with ethyl acetate, giving 50 g of 4-imidazolylcarbonylamino-1-phenylmethylpiperidine, m.p. 156° C. The mother liquors were concentrated by evaporating two-thirds of the solvent, producing an additional 14 g yield of the desired compound. The overall yield of 4-imidazolylcarbonylamino-1-phenylmethylpiperidine was 73%.

reactant | 4-Amino-1-phenylmethylpiperidine | 57.5 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | carbonyldiimidazole | 50 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 4-imidazolylcarbonylamino-1-phenylmethylpiperidine | 50 g | N1C(=NC=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C16H20N4O
